US06537948B1
2.0 g of sodium hydride was added to a mixture of 9.65 g of 2,6-dichloro-3-nitropyridine, 5.41 g of benzyl alcohol and 30 ml of tetrahydrofuran 0° C. The mixture was stirred at 0° C. for 1.5 hours, then at room temperature for 1.5 hours. The reaction solution was poured into ice water, and extracted with ethyl acetate. The organic layer was washed with saturated saline, dried over anhydrous magnesium sulfate, and concentrated. The residue was subjected to silica gel column chromatography to obtain 10.93 g of 6-chloro-2-benzyloxy-3-nitropyridine.

reactant | sodium hydride | 2.0 g | [H-].[Na+]
reactant | 2,6-dichloro-3-nitropyridine | 9.65 g | ClC1=NC(=CC=C1[N+](=O)[O-])Cl | C5H2Cl2N2O2
reactant | benzyl alcohol | 5.41 g | C(C1=CC=CC=C1)O | C7H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 6-chloro-2-benzyloxy-3-nitropyridine | 10.93 g | ClC1=CC=C(C(=N1)OCC1=CC=CC=C1)[N+](=O)[O-] | C12H9ClN2O3
